US07125896B2
b) 2-(Tetrahydrothiopyran-3-yloxy)-5-bromopyridine
Prepared from 2,5-dibromopyridine and tetrahydrothiopyran-3-ol by the method of Example 10 (b).

reactant | 2,5-dibromopyridine | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | tetrahydrothiopyran-3-ol | S1CC(CCC1)O | C5H10OS
product | 2-(Tetrahydrothiopyran-3-yloxy)-5-bromopyridine | S1CC(CCC1)OC1=NC=C(C=C1)Br | C10H12BrNOS
